US05688795
A mixture of 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide (0.54 g, 1.36 mmol), prepared as in Example 21, and sodium cyanide (0.33 g, 6.8 mmol) in 12 mL of DMSO was heated at reflux for 14 hours and then diluted with water and extracted twice with diethyl ether. The aqueous layer was extracted twice with methylene chloride and the combined methylene chloride layers were washed with water and brine, dried (MgSO4), filtered and concentrated. The residue was purified on silica gel by column chromatography eluting with 8% methanol/methylene chloride to give 2-{3-[4-(2-hydroxyphenyl)-piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide (0.134 g, 0.35 mmol) as an oil. The free base was recrystallized from a solution of fumaric acid in alcohol to give di(2-{3-[4-(2-hydroxyphenyl)-piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide) fumarate, m.p. 185°-186° C. Anal.: Calcd. for C21H30N5O2.(C4H4O4)0.5 : C, 62.57; H, 7.08; N, 15.86; Found: C, 62.44H, 7.08; N, 15.73%.

reactant | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide | 1.36 mmol, 0.54 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1 | C22H31N5O2
reactant | sodium cyanide | 6.8 mmol, 0.33 g | [C-]#N.[Na+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-{3-[4-(2-hydroxyphenyl)-piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide | 0.35 mmol, 0.134 g | OC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1 | C21H29N5O2
